US05596002
(R)-N1 -(7-Chloro-quinolin-4-yl)-N2,N2 -dimethyl-propane-1,2-diamine
Analogous to Example 33g, starting from (R)-N2,N2 -dimethyl-1,2-propanediamine hydrochloride, we prepared (R)-N1 -(7-chloro-quinolin-4-yl)-N2,N2 -dimethyl-propane-1,2-diamine hydrochloride; white crystals, m.p.: 250° C., [a]D =-9.4° (c=1.0, MeOH).

reactant | (R)-N2,N2 -dimethyl-1,2-propanediamine hydrochloride | Cl.CN([C@@H](CN)C)C
reactant | (R)-N1 -(7-chloro-quinolin-4-yl)-N2,N2 -dimethyl-propane-1,2-diamine hydrochloride | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC[C@@H](C)N(C)C
solvent | MeOH | CO | CH4O
product | (R)-N1 -(7-Chloro-quinolin-4-yl)-N2,N2 -dimethyl-propane-1,2-diamine | ClC1=CC=C2C(=CC=NC2=C1)NC[C@@H](C)N(C)C | C14H18ClN3
